US06919324B2
4-methoxy-2,3-dinitrobenzaldehyde (2.94 mmol) and 3,4,5-trimethoxybenzyltriphenyl phosphonium bromide (1.54 g, 2.94 mmol, 1.0 equiv) in anhydrous dichloromethane (25 mL) was added NaH (0.424 g, 17.67 mmol, 6.0 equiv). The reaction mixture was stirred at room temperature for about 7 hours and monitored by TLC. The reaction was quenched by adding water, the organic layer was separated and the aqueous layer was extracted with dichloromethane (3×25 mL). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo to orange colored slush. To this was added about 15 mL of dichloromethane and refrigerated overnight. The crude mixture was subjected to flash chromatography to isolate 2′,3′-Dinitro-3,4,4′,5-tetramethoxy-(Z)-stilbene (0.581 g, 1.48 mmol, 51%, solid)

reactant | 4-methoxy-2,3-dinitrobenzaldehyde | 2.94 mmol | COC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O6
reactant | 3,4,5-trimethoxybenzyltriphenyl phosphonium bromide | 2.94 mmol, 1.54 g, 1.0 equiv | [Br-].COC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1OC)OC
reactant | NaH | 17.67 mmol, 0.424 g, 6.0 equiv | [H-].[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2′,3′-Dinitro-3,4,4′,5-tetramethoxy-(Z)-stilbene | 1.48 mmol, 0.581 g, 51% | [N+](=O)([O-])C1=C(\C=C/C2=CC(=C(C(=C2)OC)OC)OC)C=CC(=C1[N+](=O)[O-])OC | C18H18N2O8
